US07067530B2
(E)-(S)-2-(2-Benzoyl-phenylamino)-3-{4-[3-(9H-fluoren-2-yl)-allyloxy]-phenyl}-propionic acid methyl ester
Under an atmosphere of nitrogen, azodicarboxylic dipiperidide (1.21 g, 6.0 mmol) was added at 0–5° C. to a stirred solution of (S)-2-(2-benzoyloxy-phenylamino)-3-(4-hydroxyphenyl)-propionic acid methyl ester (1.13 g, 3.0 mmol), (E)-3-(9H-fluoren-2-yl)-prop-2-en-1-ol (670 mg, 3.0 mmol) and tributylphosphine (1.5 g, 6.0 mmol) in dry THF (100 ml). The mixture was stirred over night. The reaction mixture was concentrated in vacuo, diluted with water and the product extracted with ethyl acetate. The organic layers were combined, washed with water, dried (MgSO4) and evaporated. The crude product was then purified by column chromatography on silica (eluent: 25% ethyl acetate in heptane) to give 1.0 g (57%) of the title compound.

reactant | (S)-2-(2-benzoyloxy-phenylamino)-3-(4-hydroxyphenyl)-propionic acid methyl ester | 3.0 mmol, 1.13 g | COC([C@H](CC1=CC=C(C=C1)O)NC1=C(C=CC=C1)OC(C1=CC=CC=C1)=O)=O | C23H21NO5
reactant | (E)-3-(9H-fluoren-2-yl)-prop-2-en-1-ol | 3.0 mmol, 670 mg | C1=C(C=CC=2C3=CC=CC=C3CC12)/C=C/CO | C16H14O
reactant | tributylphosphine | 6.0 mmol, 1.5 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | (E)-(S)-2-(2-Benzoyl-phenylamino)-3-{4-[3-(9H-fluoren-2-yl)-allyloxy]-phenyl}-propionic acid methyl ester | 1.0 g, 57% | COC([C@H](CC1=CC=C(C=C1)OC\C=C\C1=CC=2CC3=CC=CC=C3C2C=C1)NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C39H33NO4
